US07309701B2
Working as in example 19 for the preparation of 6-[4-(benzyloxy)phenyl]-3-oxo-2,3,4,5-tetrahydropyridazine-4-carboxylic acid, but starting with 4 g of ethyl 6-pyridin-2-yl-3-oxo-2,3-dihydropyridazine-4-carboxylate, 49 cm3 of one molar sodium hydroxide solution and 50 cm3 of one molar hydrochloric acid solution, 3.44 g of 6-pyridin-2-yl-3-oxo-2,3,4,5-tetrahydropyridazine-4-carboxylic acid were obtained in the form of a beige-colored solid melting at a temperature above 260° C.

reactant | 6-[4-(benzyloxy)phenyl]-3-oxo-2,3,4,5-tetrahydropyridazine-4-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1CC(C(NN1)=O)C(=O)O | C18H16N2O4
reactant | ethyl 6-pyridin-2-yl-3-oxo-2,3-dihydropyridazine-4-carboxylate | 4 g | N1=C(C=CC=C1)C=1C=C(C(NN1)=O)C(=O)OCC | C12H11N3O3
reactant | sodium hydroxide | one molar, 49 cm3 | [OH-].[Na+]
solvent | hydrochloric acid | one molar, 50 cm3 | Cl | ClH
product | 6-pyridin-2-yl-3-oxo-2,3,4,5-tetrahydropyridazine-4-carboxylic acid | 3.44 g | N1=C(C=CC=C1)C=1CC(C(NN1)=O)C(=O)O | C10H9N3O3
